US07531553B2
Preparation XXXI: 4-(2-chloro-5-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-chloro-5-nitro phenol (10 g, 63.497 mmol), N-boc-4-piperidine methanol (13.67 g, 63.49 mmol), and PPh3 (16.63 g, 63.49 mmol) in 130 mL THF, cooled at −20° C. was added dropwise over 1.5 h a 50 mL THF solution containing DIAD (12.75 ml, 64.76 mmol). The mixture turned a deep red. The reaction was warmed gradually to RT and stirred for 18 h. The mixture was concentrated in vacuo, dissolved in Et2O, washed once with water, then NaHCO3 (sat). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was treated with a mixture of hexanes and EtOAc (1:1) and the solid was filtered. The filtrate was evaporated and the residue was purified by silica gel column chromatography to yield the title compound as a yellow solid. MS (MH+)=NA; Calc'd 370.13 for C17H23ClN2O5.

reactant | 2-chloro-5-nitro phenol | 63.497 mmol, 10 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | N-boc-4-piperidine methanol | 63.49 mmol, 13.67 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CO | C11H21NO3
reactant | PPh3 | 63.49 mmol, 16.63 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 64.76 mmol, 12.75 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(2-chloro-5-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C17H23ClN2O5
